US05538976
5-[N-(2,4,5-Trifluorobenzyl)-N-(4-cyanophenyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and 2,4,5-trifluorobenzyl bromide

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 2,4,5-trifluorobenzyl bromide | FC1=C(CBr)C=C(C(=C1)F)F | C7H4BrF3
product | 5-[N-(2,4,5-Trifluorobenzyl)-N-(4-cyanophenyl)amino]pyrimidine | FC1=C(CN(C2=CC=C(C=C2)C#N)C=2C=NC=NC2)C=C(C(=C1)F)F | C18H11F3N4
